US08293684B2
N-Trifluoroacetyl-6-aminohexanol (1)
6-aminohexanol (11.7 g; 100 mmol) is dissolved in dry dichloromethane (100 mL) and drop wise added ethyl trifluoroacetate (15 g; 105 mmol) in dry dichloromethane (50 mL) (˜30 min), and the mixture is stirred overnight. Water (10 ml) is added, and the mixture is stirred for 30 min. The solution is washed with water (2×100 mL), dried (Na2SO4), and concentrated. The residue is redissolved in acetonitrile (100 μL) and concentrated. The residue is placed on vacuum overnight, and a white crystalline solid is obtained. Yield 19 g.

reactant | 6-aminohexanol | 100 mmol, 11.7 g | NCCCCCCO | C6H15NO
reactant | ethyl trifluoroacetate | 105 mmol, 15 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | Water | 10 ml | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-Trifluoroacetyl-6-aminohexanol | FC(C(=O)NCCCCCCO)(F)F | C8H14F3NO2
